US04007219
4.5 g of L-phenylalanyl-N-(2-benzoyl-4-chlorophenyl)-N-methylglycinamide were dissolved in a minimum volume of methanol at room temperature and treated, by titration, with an exact equivalent of 1-N hydrochloric acid. The solvent was removed from the resulting solution by evaporation in vacuo at room temperature and finally by lyophilisation to give, in quantitative yield, L-phenylalanyl-N-(2-benzoyl-4-chlorophenyl)-N-methylglycinamide hydrochloride as a hygroscopic white light-sensitive amorphous powder of melting point 130°-150° C (slow decomposition): [α] D 20 = +41.7° (c = 1 in water).

reactant | L-phenylalanyl-N-(2-benzoyl-4-chlorophenyl)-N-methylglycinamide | 4.5 g | N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N(C)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C25H24ClN3O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | L-phenylalanyl-N-(2-benzoyl-4-chlorophenyl)-N-methylglycinamide hydrochloride | quantitative yield | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N(C)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | InChI=1S/C25H24ClN3O3.ClH/c1-29(23(30)16-28-25(32)21(27)14-17-8-4-2-5-9-17)22-13-12-19(26)15-20(22)24(31)18-10-6-3-7-11-18;/h2-13,15,21H,14,16,27H2,1H3,(H,28,32);1H/t21-;/m0./s1
